US07884099B2
Step 1: 4-[(2-Dimethylamino-ethyl)-pyrrolidin-3-ylmethyl-amino]-piperidine-1-carboxylic acid tert-butyl ester.
The title compound was prepared by using the same procedure as described for the preparation of 4-(piperidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester in Example 4, Step 1 except 4-[(1-benzyloxycarbonyl-pyrrolidin-3-ylmethyl)-(2-dimethylamino-ethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester was used in place of 4-(1-benzyl-piperidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester. The title compound was obtained as light brown syrup. ESI MS m/z 355 (M+H+); 1H NMR (400 MHz, CDCl3) δ 4.15 (br s, 1H), 2.98 (d, J=7.5 Hz, 10.9 Hz, 1H), 2.90 (q, J=7.2 Hz, 1H), 2.71-2.50 (m, 6H), 2.40 (q, J=4.9 Hz, 1H), 2.31 (m, 3H), 2.22 (s, 3H), 2.20 (s, 3H), 1.87-1.59 (m, 8H), 1.44 (s, 9H), 1.35 (m 2H).

reactant | 4-(piperidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1CCNCC1 | C15H29N3O2
reactant | 4-[(1-benzyloxycarbonyl-pyrrolidin-3-ylmethyl)-(2-dimethylamino-ethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCN(C)C)CC1CN(CC1)C(=O)OCC1=CC=CC=C1 | C27H44N4O4
product | 4-[(2-Dimethylamino-ethyl)-pyrrolidin-3-ylmethyl-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1CNCC1)CCN(C)C | C19H38N4O2
